US04461906
14.0 g of 3-benzyloxy-4-methoxybenzoyl chloride are added in one portion at 26° C. to 15.6 g of 4-aminobutyric acid, 12.1 g of sodium hydroxide and 160 ml of ion-free water and subsequently 30 ml of tetrahydrofuran are added dropwise within 10 minutes. After 2 hours, the mixture is acidified with concentrated hydrochloric acid at a temperature below 10° C. The precipitate is separated and stirred with ethyl acetate. The mixture is filtered and the filter cake is washed with ethyl acetate. There is obtained 4-[(3-benzyloxy-4-methoxybenzoyl)amino]butyric acid which, after recrystallisation from ethyl acetate, melts at 156°-158° C.

reactant | 3-benzyloxy-4-methoxybenzoyl chloride | 14.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OC | C15H13ClO3
reactant | 4-aminobutyric acid | NCCCC(=O)O | C4H9NO2
reactant | sodium hydroxide | 12.1 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 160 ml | O | H2O
product | 4-[(3-benzyloxy-4-methoxybenzoyl)amino]butyric acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCCCC(=O)O)C=CC1OC | C19H21NO5
